US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-(hydroxymethyl)-phenyl)cyclopropanecarboxamide (39 mg, 0.10 mmol), 4-(dimethylcarbamoyl)-phenylboronic acid (29 mg, 0.15 mmol), 1 M K2CO3 (0.3 mL, 0.3 mmol), Pd-FibreCat 1007 (8 mg, 0.1 mmol), and N,N-dimethylformamide (1 mL) were combined. The mixture was heated at 80° C. for 3 h. After cooling, the mixture was filtered and purified by reverse phase HPLC to yield 5′-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-(hydroxymethyl)-N,N-dimethylbiphenyl-4-carboxamide (16 mg, 34%). ESI-MS m/z calc. 458.5, found 459.5 (M+1)+; Retention time 2.71 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-(hydroxymethyl)-phenyl)cyclopropanecarboxamide | 0.10 mmol, 39 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)CO)Br | C18H16BrNO4
reactant | 4-(dimethylcarbamoyl)-phenylboronic acid | 0.15 mmol, 29 mg | CN(C(=O)C1=CC=C(C=C1)B(O)O)C | C9H12BNO3
reactant | K2CO3 | 0.3 mmol, 1 M, 0.3 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5′-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-(hydroxymethyl)-N,N-dimethylbiphenyl-4-carboxamide | 16 mg, 34% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)C(=O)N(C)C)CO | C27H26N2O5
